US08030435B2
10 g (0.056 moles) of 2,4,4-trimethylpentyl phosphinic acid, 6.01 g (0.028 moles) of trimethylolpropane diallyl ether and 0.4 mL (0.0019 moles) of di-tert-amylperoxide are mixed in a 100 mL single neck flask. The mixture is purged with argon to remove oxygen and is heated under argon for 6 hours at 140° C. Tert-amyl alcohol is removed by distillation and 16 g (quantitative yield) of [3-(2-hydroxymethyl-2-{3-[hydroxy-(2,4,4-trimethylpentyl)-phosphinoyl]-propoxymethyl}-butoxy)-propyl]-(2,4,4-trimethylpentyl)-phosphinic acid is obtained as a viscous oil.

reactant | 2,4,4-trimethylpentyl phosphinic acid | 0.056 moles, 10 g | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
reactant | trimethylolpropane diallyl ether | 0.028 moles, 6.01 g | CCC(CO)(COCC=C)COCC=C | C12H22O3
catalyst | di-tert-amylperoxide | 0.0019 moles, 0.4 mL | C(C)(C)(CC)OOC(C)(C)CC | C10H22O2
product | [3-(2-hydroxymethyl-2-{3-[hydroxy-(2,4,4-trimethylpentyl)-phosphinoyl]-propoxymethyl}-butoxy)-propyl]-(2,4,4-trimethylpentyl)-phosphinic acid | 16 g, quantitative yield | OCC(COCCCP(O)(=O)CC(CC(C)(C)C)C)(CC)COCCCP(=O)(CC(CC(C)(C)C)C)O | C28H60O7P2
